US04260816
Ethyl 4-[N-trifluoroacetyl-2-(4-cyano-1-naphthyloxy)ethylamino]benzoate
To a solution of 5.4 g. of ethyl 4-[N-trifluoroacetyl-2-(1-naphthyloxy)ethylamino]benzoate and 1.5 g. of cyanogen bromide in 200 ml. of methylene chloride at -5° C. is added 5.7 g. of anhydrous aluminum chloride. The solution is allowed to stand at room temperature for 5 hours and then poured into 200 ml. of ice and water. After addition of 20 ml. of concentrated hydrochloric acid, the organic layer is seperated, washed with water, dried and evaporated to dryness. Recrystallization from 75% aqueous acetonitrile gives material, m.p. 150°-151° C.

reactant | ethyl 4-[N-trifluoroacetyl-2-(1-naphthyloxy)ethylamino]benzoate | FC(C(=O)N(C1=CC=C(C(=O)OCC)C=C1)CCOC1=CC=CC2=CC=CC=C12)(F)F | C23H20F3NO4
reactant | cyanogen bromide | N#CBr | CBrN
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | water | O | H2O
product | Ethyl 4-[N-trifluoroacetyl-2-(4-cyano-1-naphthyloxy)ethylamino]benzoate | FC(C(=O)N(C1=CC=C(C(=O)OCC)C=C1)CCOC1=CC=C(C2=CC=CC=C12)C#N)(F)F | C24H19F3N2O4
